US06046216
1,2-Dihydro-4-methyl-2-oxo-6-(2-propoxyphenyl-)pyridine-3-carboxamide
1,2-dihydro-4-methyl-2-oxo-6-(2-propoxyphenyl)-pyridine-3-carboxylate (0.53 g) and saturated methanolic ammonia (25 ml) was heated in a sealed vessel at 70°-85° C. for 34 hours. The residue after evaporation was triturated with methanol (10 ml) to give a solid, 0.28 g, m.p. 239°-242° C. Recrystallization from ethanol afforded the title compound, 0.18 g, m.p. 244°-246° C.

reactant | 1,2-dihydro-4-methyl-2-oxo-6-(2-propoxyphenyl)-pyridine-3-carboxylate | 0.53 g | CC1=C(C(NC(=C1)C1=C(C=CC=C1)OCCC)=O)C(=O)[O-]
reactant | ammonia | 25 ml | N | H3N
product | 1,2-Dihydro-4-methyl-2-oxo-6-(2-propoxyphenyl-)pyridine-3-carboxamide | CC1=C(C(NC(=C1)C1=C(C=CC=C1)OCCC)=O)C(=O)N | C16H18N2O3
